US05302720
Reaction of 2-amino-4'-methoxybiphenyl (10 g) with thiophosgene (8.7 g) in dioxane (25 ml) and water (80 ml) at 0° C. for 3 hours gave 4'-methoxy-2-biphenylylisothiocyanate as a pale yellow oil.

reactant | 2-amino-4'-methoxybiphenyl | 10 g | NC1=C(C=CC=C1)C1=CC=C(C=C1)OC | C13H13NO
reactant | thiophosgene | 8.7 g | C(=S)(Cl)Cl | CCl2S
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | water | 80 ml | O | H2O
product | 4'-methoxy-2-biphenylylisothiocyanate | COC1=CC=C(C=C1)C=1C(=CC=CC1)N=C=S | C14H11NOS
